US04007189
8-n-Butyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidin
A mixture of 2g of 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 0.95g of n-butylamine hydrochloride, 4 ml of triethylamine and 20 ml of ethanol was stirred under reflux for 1 hour. The reaction mixture was then concentrated under reduced pressure and the residue was dissolved in chloroform and purified by an column chromatography of alumina. The crystals thus obtained were recrystallized from isopropyl ether affording 1.35g of pale yellow needles of m.p. 72° - 75° C.

reactant | 7-chloro-6-(2-chloroethyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | ClC1=C(C(=NC=2N1N=CN2)C)CCCl | C8H8Cl2N4
reactant | n-butylamine hydrochloride | 0.95g | Cl.C(CCC)N
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-n-Butyl-6,7-dihydro-5-methyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidin | C(CCC)N1CCC=2C(=NC=3N(C21)N=CN3)C | C12H17N5
